US07517875B2
After dissolving 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (2 g) in acetonitrile (100 ml), thiocarbonyldiimidazole (2 g) and imidazole (0.2 g) were added at 0° C. The mixture was stirred at room temperature for 2 hours and 30 minutes, 3-nitro-1,2-phenylenediamine (2.1 g) was added, the temperature was raised to 50° C., and the mixture was stirred for 12 hours. Diisopropylcarbodiimide (2.4 g) was added, the mixture was refluxed for 3 hours and 30 minutes, and then the solvent was removed under reduced pressure and the obtained residue was purified by silica gel chromatography (dichloromethane/hexane=7/3→1/0) to obtain 4-[(4-nitro-1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester. The compound was identified by LC-MS.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | thiocarbonyldiimidazole | 2 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 0.2 g | N1C=NC=C1 | C3H4N2
reactant | 3-nitro-1,2-phenylenediamine | 2.1 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | Diisopropylcarbodiimide | 2.4 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-[(4-nitro-1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C18H25N5O4
